US04288605
Preparation of 3'-propionoxy bromoacetanilide
The anilide, 3'-hydroxy bromoacetanilide, 6.9 g. and propionyl chloride (3.1 g., 0.033 mole) are combined in 120 ml. of methylene chloride as a solvent. Pyridine (2.6 g., 0.033 mole) is added dropwise. A slightly exothermic reaction takes place during the addition. Stirring is continued at room temperature for 20 minutes. A clear solution is obtained. The material is washed sucessively with water, dilute hydrochloric acid and again with water. The organic layer is dried over anhydrous magnesium sulfate and the solvent evaporated. The resulting material is recrystallized from a mixture of ethylacetate and ether. There is obtained 6.5 g. of the title compound, m.p. 85°-88° C.

reactant | 3'-hydroxy bromoacetanilide | OC=1C=C(NC(CBr)=O)C=CC1 | C8H8BrNO2
reactant | propionyl chloride | 0.033 mole, 3.1 g | C(CC)(=O)Cl | C3H5ClO
reactant | Pyridine | 0.033 mole, 2.6 g | N1=CC=CC=C1 | C5H5N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3'-propionoxy bromoacetanilide | C(CC)(=O)OC=1C=C(NC(CBr)=O)C=CC1 | C11H12BrNO3
